US20010016661A1
Preparation of indole-N-acetic acid, ethyl ester
Under an atmosphere of nitrogen, a solution of indole (15.0 g, 128 mmol) in dry acetonitrile (300 mL, 0.4 M) was treated with sodium hydride (95%, 3.69 g, 153 mmol) and stirred for 30 min. Ethyl bromoacetate (17.0 mL, 153 mmol) was added in a dropwise manner over 10 min and the solution was stirred at room temperature for 16 h. After concentrating under reduced pressure, the resulting residue was dissolved in ethyl acetate and washed with sat'd. aq. NaCl. The organic extracts were dried over MgSO4, filtered and concentrated. The crude product was purified by flash column chromatography (50% ethyl acetate in heptane): Rf0.25 (40% ethyl acetate in heptane) 1H NMR (DMSO-d6, 300 MHz) δ7.53 (d, J=6.3 Hz, 1 H), 7.38-7.31 (m, 2 H), 7.11 (br t, J=7.2 Hz, 1 H), 7.02 (br t, J=7.2 Hz, 1 H), 6.45-6.43 (m, 1 H), 5.10 (s, 2 H), 4.12 (q, J=7.2 Hz, 2 H), 1.19 (t, J=7.2 Hz, 3 H)

reactant | indole | 128 mmol, 15.0 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | sodium hydride | 153 mmol, 3.69 g | [H-].[Na+]
reactant | Ethyl bromoacetate | 153 mmol, 17.0 mL | BrCC(=O)OCC | C4H7BrO2
solvent | acetonitrile | 0.4 M, 300 mL | C(C)#N | C2H3N
product | indole-N-acetic acid, ethyl ester | N1(C=CC2=CC=CC=C12)CC(=O)OCC | C12H13NO2
